US04382094
2-Benzyl-3,4,8,8a-tetrahydro-8a-methyl-1,6(2H,7H)-naphthalenedione
A solution of 3,4,8,8a-tetrahydro-8a-methyl-1,6(2H,7H)-naphthalenedione (2.5 g, 0.014 mole) in dry tetrahydrofuran (20 ml) was added to lithium diisopropylamide [made from dry diisopropylamine (1.95 ml 0.014 mole) and n-butyl-lithium (12.0 ml of a 1.15 M solution in hexane, 0.014 mole)] at -65° C. under nitrogen. The solution was allowed to warm to 0° C. and a solution of benzyl bromide (2.39 g, 0.014 mole) in dry tetrahydrofuran (6 ml) was added. This was stirred at room temperature overnight, poured into water and extracted with diethyl ether (100 ml). The organic phase was washed with 1 N hydrochloric acid (50 ml) and water (50 ml), then dried (Na2SO4) and evaported to give a dark oil. This was chromatographed on silica gel using diethyl ether/petroleum ether (1:1) as eluant giving the title compound which was further purified by distillation b.p. 190° C./0.01 mm. The product was isolated as a mixture of isomers.

reactant | 3,4,8,8a-tetrahydro-8a-methyl-1,6(2H,7H)-naphthalenedione | 0.014 mole, 2.5 g | CC12CCC(C=C2CCCC1=O)=O | C11H14O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 0.014 mole, 1.95 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | benzyl bromide | 0.014 mole, 2.39 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Benzyl-3,4,8,8a-tetrahydro-8a-methyl-1,6(2H,7H)-naphthalenedione | C(C1=CC=CC=C1)C1C(C2(CCC(C=C2CC1)=O)C)=O | C18H20O2
